US07465815B2
3-(4-Isopropylphenyl)-4,6-dimethylbenzofuran
A solution of 1-(4-isopropylphenyl)-2-(3,5-dimethylphenoxy)ethanone obtained in Reference Example 142 (38.1 g, 135 mmol) and Montmorillonite KSF (57.2 g) in toluene (400 mL) was heated at 95° C., and was reacted for 16 hours. The reaction solution was cooled to room temperature, and then Montmorillonite KSF was filtered off. The solution was purified by silica gel column chromatography (ethyl acetate:hexane=1:9), and the solvent was distilled off under reduced pressure to obtain 35.6 g (yield 100%) of the title compound as an oily matter. The oily matter was, if necessary, crystallized with methanol. Melting point: 44-45° C.

reactant | 1-(4-isopropylphenyl)-2-(3,5-dimethylphenoxy)ethanone | C(C)(C)C1=CC=C(C=C1)C(COC1=CC(=CC(=C1)C)C)=O | C19H22O2
reactant | Montmorillonite KSF | 57.2 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Isopropylphenyl)-4,6-dimethylbenzofuran | 35.6 g, yield 100% | C(C)(C)C1=CC=C(C=C1)C1=COC2=C1C(=CC(=C2)C)C | C19H20O
